US04242325
A. 4-Nitrophenylaminophosphoryl dichloride
To 300 ml of phosphorous oxychloride was carefully added 69 g (0.5 m) of 4-nitroaniline. The mixture was heated at reflux for 3 hours, then chilled to 10°. The crude product was collected by filtration, washed with ether and air-dried to give 93.6 g, m.p. 156.5°-157.5°.

reactant | 4-nitroaniline | 69 g | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
reactant | phosphorous oxychloride | 300 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Nitrophenylaminophosphoryl dichloride | [N+](=O)([O-])C1=CC=C(C=C1)NP(=O)(Cl)Cl | C6H5Cl2N2O3P
